### PR TITLE
More progress on completing the trace monad rule set

### PR DESCRIPTION
**Pull request by corlewis**
This extends the rule sets for the various monad properties (`no_trace`, `no_fail`, etc.) to cover all of the monad primitives that we have. It does not touch the RG rule set.

### CODE REVIEW

File: lib/Monads/trace/Trace_Prefix_Closed.thy [hunk 1]
```diff
@@ -0,0 +1,301 @@
...
+  apply (drule(1) prefix_closedD)+
+  apply fastforce
+  done
+
+context begin
+(* We want to enforce that prefix_closed_terminal only contains lemmas that have no
+   assumptions. The following thm statement should fail if this is not true. *)
+private lemmas check_no_assumptions_internal = iffD1[OF refl, where P="prefix_closed f" for f]
+thm prefix_closed_terminal[atomized, THEN check_no_assumptions_internal]
+end
```
Comment (corlewis) [inline lib/Monads/trace/Trace_Prefix_Closed.thy:295]: Huh, I forgot that I added this check here. Are we ok with this approach, and if so should I add it to the other monad files that use the same attribute pattern?

It won't protect us from rules being incorrectly added to the sets past this point, but it should catch any mistakes we make adding new rules in this file.

File: lib/Monads/trace/Trace_Monad.thy [hunk 2]
```diff
@@ -68,6 +67,17 @@ text \<open>Returns monad results, ignoring failures and traces.\<close>
 definition mres :: "((tmid \<times> 's) list \<times> ('s, 'a) tmres) set \<Rightarrow> ('a \<times> 's) set" where
   "mres r = Result -` (snd ` r)"
 
+text \<open>True if the monad has a computation resulting in Failed.\<close>
+definition failed :: "((tmid \<times> 's) list \<times> ('s, 'a) tmres) set \<Rightarrow> bool" where
+  "failed r \<equiv> Failed \<in> snd ` r"
```
Comment (lsf37) [inline lib/Monads/trace/Trace_Monad.thy:72]: I like it. I'm almost tempted to try it out on the nondet monad as well. But let's resist temptation for now, it'd lead to much more change on that side.

File: lib/Monads/trace/Trace_No_Trace.thy [hunk 3]
```diff
@@ -44,34 +44,318 @@ lemma no_trace_is_triple[wp_trip]:
...
+
+lemma no_trace_apply[no_trace_cond]:
+  "no_trace (f (g x)) \<Longrightarrow> no_trace (f $ g x)"
+  by simp
+
+\<comment> \<open>FIXME: make proof nicer\<close>
+lemma no_trace_liftM_eq[simp]:
+  "no_trace (liftM f m) = no_trace m"
+  apply (clarsimp simp: no_trace_def bind_def liftM_def return_def split_def
+                 split: tmres.split_asm)
```
Comment (lsf37) [inline lib/Monads/trace/Trace_No_Trace.thy:138]: Could this proof work by combining `no_trace` results about `bind` and `return` instead of unfolding? (Doesn't have to be in this PR)

File: lib/Monads/trace/Trace_Prefix_Closed.thy (hunk 1 above)
Comment (lsf37) [reply lib/Monads/trace/Trace_Prefix_Closed.thy:295]: That's a neat idea! I wonder if there is a simpler version, but I can't come up with anything.

Happy to also add this in the other theories that could benefit from similar checks.

File: lib/Monads/trace/Trace_No_Trace.thy [hunk 4]
```diff
@@ -44,34 +44,318 @@ lemma no_trace_is_triple[wp_trip]:
...
+
+lemma no_trace_andM[no_trace_cond]:
+  "\<lbrakk> no_trace A; no_trace B \<rbrakk> \<Longrightarrow> no_trace (andM A B)"
+  unfolding andM_def
+  by (wpsimp wp: no_trace_terminal no_trace_cond)
+
+\<comment> \<open>FIXME: This is true but is it useful to even state?
+          The parallel composition of traceless functions doesn't make much sense\<close>
+lemma no_trace_parallel[no_trace_cond]:
+  "\<lbrakk> no_trace f; no_trace g \<rbrakk> \<Longrightarrow> no_trace (parallel f g)"
```
Comment (lsf37) [inline lib/Monads/trace/Trace_No_Trace.thy:354]: I think it's useful to have -- you want trivial goals to go away automatically, and this will enable that. It's unlikely to occur, but I could imagine it popping up in some kind of contradiction or things like that.

File: lib/Monads/trace/Trace_Prefix_Closed.thy [hunk 5]
```diff
@@ -0,0 +1,301 @@
...
+  Collect generic prefix_closed lemmas here:
+   - naming convention is prefix_closed_NAME.
+   - add lemmas with assumptions to [prefix_closed_cond] set
+   - add lemmas without assumption to [prefix_closed_terminal] set
+*)
+
+named_theorems prefix_closed_terminal
+named_theorems prefix_closed_cond
+
+lemmas [prefix_closed_terminal] = no_trace_terminal[THEN no_trace_prefix_closed]
```
Comment (lsf37) [inline lib/Monads/trace/Trace_Prefix_Closed.thy:58]: Neat, that saves a lot of typing.

File: lib/Monads/trace/Trace_Prefix_Closed.thy [hunk 6]
```diff
@@ -0,0 +1,301 @@
...
+
+lemma prefix_closed_bind[wp_split]:
+  "\<lbrakk>prefix_closed f; \<And>x. prefix_closed (g x)\<rbrakk> \<Longrightarrow> prefix_closed (f >>= g)"
+  apply (subst prefix_closed_def, clarsimp simp: bind_def)
+  apply (auto simp: Cons_eq_append_conv split: tmres.split_asm
+             dest!: prefix_closedD[rotated];
+         fastforce elim: rev_bexI)
```
Comment (lsf37) [inline lib/Monads/trace/Trace_Prefix_Closed.thy:65]: Sometimes it helps to give auto deeper depth parameters e.g. `auto (6,3) simp: ..`. Not actually sure if that is less dodgy than `auto ..; fastforce ..` or more, because people tend to not know these, but I wanted to put it out there. (Also not sure if it'll actually help -- the first number is the depth given to `blast` inside `auto`, default is 4, and the second is another depth parameter for another tactic that I don't actually know (default = 2)).

**Review by lsf37 — APPROVED** [review]
I'm glad we're doing this. These rules would be so much pain to discover and add incrementally during the proofs, and it would lead to a complete mess.

File: lib/Monads/trace/Trace_Prefix_Closed.thy (hunk 1 above)
Comment (lsf37) [reply lib/Monads/trace/Trace_Prefix_Closed.thy:295]: To appease the thy linter, we could write `private lemmas check = ..` instead of `thm ..`

File: lib/Monads/trace/Trace_Prefix_Closed.thy (hunk 6 above)
Comment (lsf37) [reply lib/Monads/trace/Trace_Prefix_Closed.thy:65]: (The other one to try, which you might already have done anyway is `force` instead of `auto`)

File: lib/Monads/trace/Trace_Prefix_Closed.thy (hunk 1 above)
Comment (corlewis) [reply lib/Monads/trace/Trace_Prefix_Closed.thy:295]: If you're curious, this isn't completely new, I remembered that I had done something very similar in [rt](https://github.com/seL4/l4v/blob/rt/proof/refine/ARM/Invariants_H.thy#L3017).

For your second point, I think I have a very small preference for `thm ..` over `private lemmas check = ..`. It's pretty easy to ignore the thy linter failure here and it shouldn't reoccur in future PRs, as it feels very unlikely that these specific lines will need updating. On the other hand, it's minor but `private lemmas` aren't completely private. They can't actually be used anywhere else but they still pollute the namespace and can lead to mildly confusing `find_theorems` results.

File: lib/Monads/trace/Trace_No_Trace.thy (hunk 3 above)
Comment (corlewis) [reply lib/Monads/trace/Trace_No_Trace.thy:138]: Unfortunately not, at least not without new `bind` and `return` results. That would work for the following `no_trace_liftM` lemma but not for this one with its equality.

To be honest, I probably would have skipped this equality and just done `no_trace_liftM`, except for the fact that I was copying a lot of the structure of this file from `Trace_No_Fail` and `Trace_Empty_Fail` which both have `liftM_eq` equivalents.

File: lib/Monads/trace/Trace_No_Trace.thy (hunk 4 above)
Comment (corlewis) [reply lib/Monads/trace/Trace_No_Trace.thy:354]: Good point. I'll remove the FIXME then but might leave a comment since I imagine we might otherwise go through the same conversation at some point in the future..

File: lib/Monads/trace/Trace_Prefix_Closed.thy (hunk 5 above)
Comment (corlewis) [reply lib/Monads/trace/Trace_Prefix_Closed.thy:58]: Yeah, I was pretty happy that this worked.

File: lib/Monads/trace/Trace_Prefix_Closed.thy (hunk 6 above)
Comment (corlewis) [reply lib/Monads/trace/Trace_Prefix_Closed.thy:65]: I'll give both of those a go, it would be nice to avoid `auto ..; fastforce ..`

Comment (corlewis) [reply lib/Monads/trace/Trace_Prefix_Closed.thy:65]: It turns out that `auto 4 4 ..` does work, so I guess that just leaves the question of which is less dodgy.

File: lib/Monads/trace/Trace_Prefix_Closed.thy (hunk 1 above)
Comment (lsf37) [reply lib/Monads/trace/Trace_Prefix_Closed.thy:295]: Ok, that is a valid point. Let's stick with `thm`, the linter won't be seeing this file very often.

File: lib/Monads/trace/Trace_No_Trace.thy (hunk 3 above)
Comment (lsf37) [reply lib/Monads/trace/Trace_No_Trace.thy:138]: Ok, no worries.

File: lib/Monads/trace/Trace_Prefix_Closed.thy (hunk 6 above)
Comment (lsf37) [reply lib/Monads/trace/Trace_Prefix_Closed.thy:65]: I would say `auto 4 4` is marginally less dodgy than `auto; fastforce`, but it's a toss-up. Happy to leave it up to your taste, you're the author :-)
